US05739299
3-Chloro-4-amino benzene sulphonylfluoride (1 part) was stirred in acetic/propionic acid 86/14 vol/vol (15 parts) and cooled to -5° C. Nitrosyl sulphuric acid solution (1.9 parts) was added dropwise then stirred at 0°-5° C. for 2 hours. The diazo solution was then added to a stirred mixture of N-ethyl-N-benzyl aniline (2.0 parts), methanol (50 parts), sulphamic acid (0.5 parts) and sodium acetate (5 parts) with ice/water (100 parts) at 0°-5° C. After stirring under these conditions for 1 hour, the dye was filtered off and washed well with water. The damp solid was slurried in methanol (100 parts) and re-filtered. Dried at 50° C. to yield the product 4-(2-chloro-4-fluorosulphonyl phenylazo)-N-ethyl-N-benzyl aniline (1.5 parts). When applied to polyester materials from an aqueous dispersion the dye gave orange shades. λmax 483 nm

reactant | 3-Chloro-4-amino benzene sulphonylfluoride | ClC=1C=C(C=CC1N)S(=O)(=O)F | C6H5ClFNO2S
reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | N-ethyl-N-benzyl aniline | C(C)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C15H17N
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic propionic acid | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C.C(CC)(=O)O
solvent | methanol | CO | CH4O
product | 4-(2-chloro-4-fluorosulphonyl phenylazo)-N-ethyl-N-benzyl aniline | ClC1=C(C=CC(=C1)S(=O)(=O)F)N=NC1=CC=C(N(CC2=CC=CC=C2)CC)C=C1 | C21H19ClFN3O2S
